US04645775
β-Hydroxyethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-benzyloxyphenyl)-pyridine-5-carboxylate
1 g of β-acetoxy-ethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-benzyloxyphenyl)-pyridine-5-carboxylate is suspended in 120 ml of absolute methanol, and 2 ml of 1 molar sodium methylate solution are added, a dark red solution soon being formed. When the reaction has ended (check by thin layer chromatography), the mixture is rendered neutral with Amberlite IR 120 H⊕ and filtered and the filtrate is concentrated. The solid evaporation residue is stirred with ethanol and filtered off with suction. 600 mg (65.8% of theory) of a yellow-colored compound of melting point 183°-185° C. are obtained.

reactant | β-acetoxy-ethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-benzyloxyphenyl)-pyridine-5-carboxylate | 1 g | CC=1NC(=C(C(C1[N+](=O)[O-])C1=C(C=CC=C1)OCC1=CC=CC=C1)C(=O)OCCOC(C)=O)C | C25H26N2O7
reactant | sodium methylate | 1 molar, 2 ml | C[O-].[Na+]
solvent | methanol | 120 ml | CO | CH4O
product | β-Hydroxyethyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-benzyloxyphenyl)-pyridine-5-carboxylate | CC=1NC(=C(C(C1[N+](=O)[O-])C1=C(C=CC=C1)OCC1=CC=CC=C1)C(=O)OCCO)C | C23H24N2O6
